US09278968B2
To a mixture of 2 g of (S)-1-(2-bromophenyl)ethylamine and 20 ml of dichloromethane were added 2.1 ml of triethylamine and 1.7 ml of trifluoroacetic anhydride under ice-cooling, followed by stirring at room temperature for 4 hours. To the reaction mixture was added a 10% aqueous citric acid solution under ice-cooling, and the organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2.84 g of N-[(1S)-1-(2-bromophenyl)ethyl]-2,2,2-trifluoroacetamide.

reactant | (S)-1-(2-bromophenyl)ethylamine | 2 g | BrC1=C(C=CC=C1)[C@H](C)N | C8H10BrN
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic anhydride | 1.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | N-[(1S)-1-(2-bromophenyl)ethyl]-2,2,2-trifluoroacetamide | 2.84 g | BrC1=C(C=CC=C1)[C@H](C)NC(C(F)(F)F)=O | C10H9BrF3NO
